US07700598B2
85e (R)-2-(4-amino-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 500 mg (20.9 mmol) LiOH in 10 mL water was added to a solution of 6.7 g (13.6 mmol) of (R)-2-(4-amino-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 50 mL THF and the reaction mixture was stirred overnight at RT. To complete the reaction another 300 mg (12.5 mmol) LiOH were added and the reaction solution was stirred for 3 h at 40° C. It was evaporated down i.vac., the residue was taken up in 15% K2CO3 solution and extracted exhaustively with DCM. The aqueous phase was acidified with 4 M HCl, exhaustively extracted with DCM and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was reacted further without purification.

reactant | LiOH | 20.9 mmol, 500 mg | [Li+].[OH-]
reactant | (R)-2-(4-amino-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 13.6 mmol, 6.7 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)N)C)C(=O)OC)C=CC=C2 | C27H34N4O5
reactant | LiOH | 12.5 mmol, 300 mg | [Li+].[OH-]
solvent | water | 10 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-amino-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)N)C)C(=O)O)C=CC=C2 | C26H32N4O5
